US06294558B1
5-(4-Bromophenyl)-3-methyl-4-phenylisoxazole. (step 3)
To a stirred mixture of 4-(4-bromophenyl)-3-phenyl-3-buten-2-one oxime (2.06 g, 6.52 mmol) and sodium bicarbonate (2.46 g, 29.3 mmol) in a mixture of tetrahydrofuran (30 ml) and water (20 ml) was added a solution of potassium iodide (4.09 g, 24.7 mmol) and iodine (1.98 g, 7.82 mmol) in water (30 ml) at room temperature. Then, the resulting mixture was refluxed for 5 hours in the dark. After cooling down to room temperature, 50 ml of saturated aqueous sodium sulfite was added. The organic layer was separated and the water layer was extracted with ethyl acetate (100 ml×2). The combined organic layers were dried over anhydrous magnesium sulfate and evaporated. The obtained residue was chromatographed on a column of silica gel (120 g) as eluting with ethyl acetate/hexane (1:15) to afford 1.64 g (80%) of the title compound as a pale brown oil.

reactant | 4-(4-bromophenyl)-3-phenyl-3-buten-2-one oxime | 6.52 mmol, 2.06 g | BrC1=CC=C(C=C1)C=C(C(C)=NO)C1=CC=CC=C1 | C16H14BrNO
reactant | sodium bicarbonate | 29.3 mmol, 2.46 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 24.7 mmol, 4.09 g | [I-].[K+]
reactant | iodine | 7.82 mmol, 1.98 g | II | I2
reactant | sodium sulfite | 50 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 5-(4-Bromophenyl)-3-methyl-4-phenylisoxazole | 1.64 g, 80% | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C1=CC=CC=C1 | C16H12BrNO
